US04112104
Reaction of S-methyl-N-[2-((4-methyl-5-imidazolyl)-methylthio)ethyl]thiouronium sulphate with 2-[(2-aminoethyl)thiomethyl]thiazole by the procedure of Example 10 (ii) yielded N-[2-((4-methyl-5-imidazolyl)-methylthio)ethyl]-N'-[2-(2-thiazolylmethylthio)ethyl]-guanidine.

reactant | S-methyl-N-[2-((4-methyl-5-imidazolyl)-methylthio)ethyl]thiouronium sulphate | S(=O)(=O)([O-])[O-].CSC(=[NH+]CCSCC1=C(N=CN1)C)N.CSC(=[NH+]CCSCC1=C(N=CN1)C)N
reactant | 2-[(2-aminoethyl)thiomethyl]thiazole | NCCSCC=1SC=CN1 | C6H10N2S2
product | N-[2-((4-methyl-5-imidazolyl)-methylthio)ethyl]-N'-[2-(2-thiazolylmethylthio)ethyl]-guanidine | CC=1N=CNC1CSCCNC(=N)NCCSCC=1SC=CN1 | C14H22N6S3
